US06492372B1
Step C: Preparation of N—(4—(N,N-Di-n-hexylamino)—1,1-dioxo—1,2,5-thiadiazol—3-yl)-L-tyrosine tert-Butyl Ester
A solution of 4—(N,N-di-n-hexylamino)—3-ethoxy—1,1-dioxo—1,2,5-thiadiazole (400 mg, 1.02 mmol) and L-tyrosine t-butyl ester (261 mg, 1.1 mmol) in EtOH (10 mL) was stirred at room temperature for 36 hrs. The solvent was removed under reduced pressure residue purified by flash column chromatography (silica, hexane:EtOAc 3:1 then 1:1) to give the title compound as a white waxy solid (400 mg, 73%).

reactant | 4—(N,N-di-n-hexylamino)—3-ethoxy—1,1-dioxo—1,2,5-thiadiazole | 1.02 mmol, 400 mg | C(CCCCC)N(CCCCCC)C=1C(=NS(N1)(=O)=O)OCC | C16H31N3O3S
reactant | L-tyrosine t-butyl ester | 1.1 mmol, 261 mg | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
solvent | EtOH | 10 mL | CCO | C2H6O
product | N—(4—(N,N-Di-n-hexylamino)—1,1-dioxo—1,2,5-thiadiazol—3-yl)-L-tyrosine tert-Butyl Ester | C(C)(C)(C)OC([C@@H](NC1=NS(N=C1N(CCCCCC)CCCCCC)(=O)=O)CC1=CC=C(C=C1)O)=O | C27H44N4O5S
